US09422279B2
To a solution of (S)-(1-phenylpyrrolidin-2-yl)methanol (45 mg, 0.23 mmol) and 2,6-dihydroxybenzaldehyde (60 mg, 0.46 mmol) in THF (1 ml) was added PPh3 (0.12 g, 0.46 mmol), followed by DIAD (90 mg, 0.46 mmol) at room temperature. After stirrer for 10 min, the mixture was concentrated and the residue was purified by column (Hexanes/EtOAc=9:1) to give (S)-2-hydroxy-6-((1-phenylpyrrolidin-2-yl)methoxy)benzaldehyde (14 mg). 1H NMR (400 MHz, CDCl3 (ppm) 11.96 (s, 1H), 10.37 (s, 1H), 7.35 (t, J=8.0 Hz, 1H), 7.25 (m, 2H), 6.73 (m, 3H), 6.53 (d, J=8.4 Hz, 1H), 6.33 (d, J=9.2 Hz, 1H), 4.21 (m, 1H), 4.15 (d, J=3.6 Hz, 1H), 3.83 (t, J=8.0 Hz, 1H), 3.53 (m, 1H), 3.22 (m, 1H), 2.11 (m, 4H); MS (ESI) m/z 298.4

reactant | (S)-(1-phenylpyrrolidin-2-yl)methanol | 0.23 mmol, 45 mg | C1(=CC=CC=C1)N1[C@@H](CCC1)CO | C11H15NO
reactant | 2,6-dihydroxybenzaldehyde | 0.46 mmol, 60 mg | OC1=C(C=O)C(=CC=C1)O | C7H6O3
reactant | PPh3 | 0.46 mmol, 0.12 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | DIAD | 0.46 mmol, 90 mg | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | THF | 1 ml | C1CCOC1 | C4H8O
product | (S)-2-hydroxy-6-((1-phenylpyrrolidin-2-yl)methoxy)benzaldehyde | 14 mg | OC1=C(C=O)C(=CC=C1)OC[C@H]1N(CCC1)C1=CC=CC=C1 | C18H19NO3
